US05102667
N,N'-Carbonyldiimidazole (1.62 g) is added to a solution of (2-tert-butoxycarbonylaminophenyl)acetic acid (2.51 g) in dry dichloromethane (30 cc), cooled to +5° C. The mixture is stirred for 45 minutes at +5° C. and a solution of (3aRS,7aRS)-7,7-diphenyl-4-perhydroisoindolone hydrochloride (3.27 g) and triethylamine (2.8 cc) in dichloromethane (30 cc) is then added. The reaction mixture is stirred at 20° C. for 16 hours, then washed with water (3×100 cc), dried over magnesium sulphate and filtered and the filtrate is concentrated to dryness under reduced pressure (2.7 kPa). The residue is chromatographed on a silica gel column (0.2-0.063 mm, diameter 4 cm, height 40 cm), eluting under a nitrogen pressure of 0.7 bar with a mixture of cyclohexane and ethyl acetate (60/40 by volume) and collecting 125 cc fractions. Fractions 22 to 34 are combined and concentrated to dryness under reduced pressure (2.7 kPa) to give (3aRS,7aRS)-2-[(2-tert-butoxycarbonylaminophenyl)acetyl]-7,7-diphenyl-4-perhydroisoindolone (1.5 g) in the form of a yellow meringue.

reactant | (2-tert-butoxycarbonylaminophenyl)acetic acid | 2.51 g | C(C)(C)(C)OC(=O)NC1=C(C=CC=C1)CC(=O)O | C13H17NO4
reactant | (3aRS,7aRS)-7,7-diphenyl-4-perhydroisoindolone hydrochloride | 3.27 g | Cl.C1(=CC=CC=C1)C1(CCC(C2CNCC12)=O)C1=CC=CC=C1
reactant | triethylamine | 2.8 cc | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 30 cc | ClCCl | CH2Cl2
solvent | dichloromethane | 30 cc | ClCCl | CH2Cl2
product | (3aRS,7aRS)-2-[(2-tert-butoxycarbonylaminophenyl)acetyl]-7,7-diphenyl-4-perhydroisoindolone | 1.5 g | C(C)(C)(C)OC(=O)NC1=C(C=CC=C1)CC(=O)N1CC2C(CCC(C2C1)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C33H36N2O4
